US04402708
Reaction of phthalic anhydride and dioctadecyl amine to form N,N-dioctadecyl phthalamic acid dioctadecyl ammonium salt.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | dioctadecyl amine | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
product | N,N-dioctadecyl phthalamic acid dioctadecyl ammonium salt | C(CCCCCCCCCCCCCCCCC)[NH2+]CCCCCCCCCCCCCCCCCC.C(CCCCCCCCCCCCCCCCC)N(C(C=1C(C(=O)[O-])=CC=CC1)=O)CCCCCCCCCCCCCCCCCC | InChI=1S/C44H79NO3.C36H75N/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-35-39-45(43(46)41-37-33-34-38-42(41)44(47)48)40-36-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-37-36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2/h33-34,37-38H,3-32,35-36,39-40H2,1-2H3,(H,47,48);37H,3-36H2,1-2H3
